US04827011
3-(Hexadecyloxy)-3-methyl-1,2-butanediol
A mixture of 35 g of [1-(hexadecyloxy)-1-methylethyl]oxirane, 30.07 g of potassium hydroxide, 70 ml of water and 450 ml of dimethyl sulfoxide was stirred at 110° C. for 8 hours, then cooled, poured into water and extracted with ether. The ether extract was dried and the solvent removed. The residue was chromatographed via HPLC, eluting with hexane:ethyl acetate (4:1). The lower Rf component was the desired compound, giving 18.2 g of an oil.

reactant | [1-(hexadecyloxy)-1-methylethyl]oxirane | 35 g | C(CCCCCCCCCCCCCCC)OC(C)(C)C1OC1 | C21H42O2
reactant | potassium hydroxide | 30.07 g | [OH-].[K+]
reactant | dimethyl sulfoxide | 450 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | water | 70 ml | O | H2O
product | 3-(Hexadecyloxy)-3-methyl-1,2-butanediol | 18.2 g | C(CCCCCCCCCCCCCCC)OC(C(CO)O)(C)C | C21H44O3
